US05616620
a) 3-[(4-Cyanophenyl)methyl]-4,5-dihydro-5,5-dimethyl-1H-imidazol-2,4(3H)-dione
Prepared analogously to Example 92a) from 5,5-dimethylhydantoin and 4-(bromomethyl)-benzonitrile in the presence of potassium-tert.-butoxide in a yield of 98% of theory.

reactant | 5,5-dimethylhydantoin | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | 4-(bromomethyl)-benzonitrile | BrCC1=CC=C(C#N)C=C1 | C8H6BrN
reactant | potassium tert.-butoxide | [K].CC(C)([O-])C
product | 3-[(4-Cyanophenyl)methyl]-4,5-dihydro-5,5-dimethyl-1H-imidazol-2,4(3H)-dione | yield of 98% | C(#N)C1=CC=C(C=C1)CN1C(NC(C1=O)(C)C)=O | C13H13N3O2
